US05294623
20(a) Ethyl 4-[1-benzyl-4-piperidylidene]-2-butenoate
Under an atmosphere of nitrogen, 0.583 g of sodium hydride (as a 50% w/w dispersion in mineral oil) were added to a 4 ml of tetrahydrofuran and the mixture was cooled with water. A solution of 3.04 g of ethyl 4-(diethylphosphono)crotonate in 5 ml of tetrahydrofuran was added dropwise to the cooled mixture, which was then stirred for 30 minutes. At the end of this time, a solution of 1.84 g of 1-benzyl-4-piperidone in 2 ml of tetrahydrofuran was added to the mixture over a period of 30 minutes, whilst the mixture was kept at 0° C. by ice-cooling, and the mixture was stirred at 0° C. for 1 hour. The reaction mixture was then stirred at room temperature for 2 hours, after which it was concentrated by evaporation under reduced pressure. The residue was extracted with ethyl acetate, and the extract was washed with water. The solvent was then removed by distillation under reduced pressure. The red brown residue was subjected to column chromatography through silica gel, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to afford 0.81 g (29% yield) of the title compound as a pale yellow oil.

reactant | sodium hydride | 0.583 g | [H-].[Na+]
reactant | water | O | H2O
reactant | ethyl 4-(diethylphosphono)crotonate | 3.04 g | C(C)OP(=O)(OCC)C/C=C/C(=O)OCC | C10H19O5P
reactant | 1-benzyl-4-piperidone | 1.84 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | Ethyl 4-[1-benzyl-4-piperidylidene]-2-butenoate | 0.81 g, 29% yield | C(C1=CC=CC=C1)N1CCC(CC1)=CC=CC(=O)OCC | C18H23NO2
